US05441960
2-(5-Acetylamino-6-oxo-2-phenyl-1,6-dihydropyrimidin-1-yl)-N-[3,3-difluro-1-isopropyl-2-oxo-3-(N-propylcarbamoyl)propyl]acetamide.
2-(5-Acetylamino-6-oxo-2-phenyl-1,6-dihydropyrimidin-1-yl)-N-[3,3-difluoro-2-hydroxy-1-isopropyl-3-(N-propylcarbamoyl)propyl]acetamide. To a solution of the product from Example 8.a. (0.23 g) in tetrahydrofuran (5 mL) was added triethylamine (0.08 mL). Acetyl chloride (0.04 g) was added, resulting in gas evolution and precipitate formation. After 1 hour, additional triethylamine (0.04 mL) and acetyl chloride (0.02 mL) were added. After 15 minutes, the reaction was diluted with ethyl acetate and washed with water. The aqueous phase was made basic with saturated sodium bicarbonate and extracted with ethyl acetate. The combined organic extracts were washed with brine and dried. Evaporation gave a material which solidified upon further evaporation from dichloromethane:hexane. The solid (0.313 g) was not further purified; TLC: Rf =0.19, methanol:dichloromethane (5:95); 300 MHz NMR: 2.15 (s,3), 7.87 (d,1), 8.34 (t,1), 8.82 (s,1), 9.54 (s,1); MS: m/z=508 (M+1).

reactant | 2-(5-Acetylamino-6-oxo-2-phenyl-1,6-dihydropyrimidin-1-yl)-N-[3,3-difluoro-2-hydroxy-1-isopropyl-3-(N-propylcarbamoyl)propyl]acetamide | C(C)(=O)NC1=CN=C(N(C1=O)CC(=O)NC(C(C(C(NCCC)=O)(F)F)O)C(C)C)C1=CC=CC=C1 | C24H31F2N5O5
reactant | triethylamine | 0.08 mL | C(C)N(CC)CC | C6H15N
reactant | Acetyl chloride | 0.04 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.02 mL | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-Acetylamino-6-oxo-2-phenyl-1,6-dihydropyrimidin-1-yl)-N-[3,3-difluro-1-isopropyl-2-oxo-3-(N-propylcarbamoyl)propyl]acetamide | C(C)(=O)NC1=CN=C(N(C1=O)CC(=O)NC(C(C(C(NCCC)=O)(F)F)=O)C(C)C)C1=CC=CC=C1 | C24H29F2N5O5
